* C:\Users\fath_local\Desktop\pico_contest\ltspice\buffer.asc
V1 VDD 0 3.3
V2 VIN 0 PULSE(0 1.8 0 10p 10p 5n 10n)
C2 N005 0 1p
R1 N005 0 50
C1 N005 0 10p
V3 0 VSS 3.3
R2 N005 N006 50
XU1 VIN N006 VDD VSS N006 AD8009an
XU2 N001 N002 VDD VSS N003 VDD AD8000
C3 N004 0 1p
R3 N004 0 50
C4 N004 0 10p
R4 N004 N003 50
R5 N001 VIN 50
R6 N003 N002 432
R7 0 N002 432
C5 N003 0 1p
C6 N002 0 1p
C7 0 N001 1p
.tran 0 50n 0 0.1n
.lib C:\Users\fath_local\Desktop\pico_contest\ltspice\ad8000p.cir
.lib C:\Users\fath_local\Desktop\pico_contest\ltspice\ad8009.cir
.backanno
.end
